US07723538B2
4-[3-(3-Chloro-benzenesulfonylamino)-benzoylamino]-2-fluoro-benzoic acid
A solution of 3-(3-chloro-benzenesulfonylamino)-benzoic acid (31.1 mg, 0.10 mmol) in DMF (0.5 ml) was added to 4-amino-2-fluoro-benzoic acid ethyl ester (20.1 mg, 0.11 mmol). Diisopropyl-ethyl-amine (0.035 ml) was added, followed by a solution of HATU (57.0 mg, 0.15 mmol) in DMF (0.5 ml). The mixture was shaken at room temperature overnight, then diluted with ethyl acetate (4.0 ml) and water (2.0 ml). The organic phase was separated and evaporated. The residue was dissolved in ethanol (0.60 ml) and treated with 3N KOH (0.40 ml). The mixture was shaken at room temperature overnight, then acidified to pH 2 with 3N HCl. Purification by preparative HPLC (ZORBAX Eclipse XDB-C18, 21.2×50 mm, 5 μm, gradient acetonitrile/water+0.1% formic acid) yielded the title compound (7.0 mg, 15%) as a white solid, MS (ISP): m/e=447.0 (M−H).

reactant | 3-(3-chloro-benzenesulfonylamino)-benzoic acid | 0.10 mmol, 31.1 mg | ClC=1C=C(C=CC1)S(=O)(=O)NC=1C=C(C(=O)O)C=CC1 | C13H10ClNO4S
reactant | 4-amino-2-fluoro-benzoic acid ethyl ester | 0.11 mmol, 20.1 mg | C(C)OC(C1=C(C=C(C=C1)N)F)=O | C9H10FNO2
reactant | Diisopropyl-ethyl-amine | 0.035 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.15 mmol, 57.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 4.0 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 2.0 ml | O | H2O
product | 4-[3-(3-Chloro-benzenesulfonylamino)-benzoylamino]-2-fluoro-benzoic acid | 7.0 mg, 15% | ClC=1C=C(C=CC1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC(=C(C(=O)O)C=C2)F)C=CC1 | C20H14ClFN2O5S
